US04430355
Boiling stones and 42 gm (0.12 mol) of 2-(N-tert. butyl)sulfamoyl-5-methyl-furan-3-carboxylic acid were heated in a round bottom flask for 2 hours at 150° C. The cooled reaction mixture was taken up in 1 liter of ethyl acetate. After refluxing the solution was treated with activated charcoal, filtered and evaporated. 22.8 gm (69% of theory) of crystalline 5-methyl-2-sulfamoyl-furan-3-carboxylic acid were obtained.

reactant | 2-(N-tert. butyl)sulfamoyl-5-methyl-furan-3-carboxylic acid | 0.12 mol, 42 gm | C(C)(C)(C)NS(=O)(=O)C=1OC(=CC1C(=O)O)C | C10H15NO5S
reactant | charcoal | C | CH4
solvent | ethyl acetate | 1 liter | C(C)(=O)OCC | C4H8O2
product | 5-methyl-2-sulfamoyl-furan-3-carboxylic acid | 22.8 gm, 69% | CC1=CC(=C(O1)S(N)(=O)=O)C(=O)O | C6H7NO5S
